US07300947B2
5) 1-{[(4R)-2,2-dimethyl-1,3-dioxolan-4-yl]methyl}-3-{1-[(4S)-spiro-[2.5]-oct-4-ylmethyl]piperidin-4-yl}-1,3-dihydro-2H-benzimidazol-2-one
3-{1-[(4S)-spiro[2.5]oct-4-ylmethyl]piperidin-4-yl}-1,3-dihydro-2H-benzimidazol-2-one (2.94 g) was dissolved in dimethylformamide (60 mL), and to which 60-72% sodium hydride (oil dispersion) (706.6 mg) was added at room temperature and stirred for 30 minutes. To the reaction mixture, [(4S)-2,2-dimethyl-1,3-dioxolan-4-yl]methyl 4-methylbenzene-sulfonate (7.25 g) was added and stirred at 80° C. for 7 hours. After cooling the reaction mixture to room temperature, water was added, followed by extraction with ethyl acetate. The extract washed with saturated brine, dried over anhydrous magnesium sulfate, the solvent was removed by distillation and the resulting residue was purified on silica gel column chromatography (hexane/ethyl acetate=2/1−1/2) to provide 3.43 g of the title compound as a pale yellow, oily substance.

reactant | 3-{1-[(4S)-spiro[2.5]oct-4-ylmethyl]piperidin-4-yl}-1,3-dihydro-2H-benzimidazol-2-one | 2.94 g | C1CC12[C@H](CCCC2)CN2CCC(CC2)N2C(NC1=C2C=CC=C1)=O | C21H29N3O
reactant | sodium hydride | 706.6 mg | [H-].[Na+]
reactant | [(4S)-2,2-dimethyl-1,3-dioxolan-4-yl]methyl 4-methylbenzene-sulfonate | 7.25 g | CC1=CC=C(C=C1)S(=O)(=O)OC[C@H]1OC(OC1)(C)C | C13H18O5S
reactant | water | O | H2O
solvent | dimethylformamide | 60 mL | CN(C=O)C | C3H7NO
product | 1-{[(4R)-2,2-dimethyl-1,3-dioxolan-4-yl]methyl}-3-{1-[(4S)-spiro-[2.5]-oct-4-ylmethyl]piperidin-4-yl}-1,3-dihydro-2H-benzimidazol-2-one | 3.43 g | CC1(OC[C@H](O1)CN1C(N(C2=C1C=CC=C2)C2CCN(CC2)C[C@@H]2C1(CC1)CCCC2)=O)C | C27H39N3O3
